US06218538B1
4-Methoxybenzamidine Monohydrochloride
To a solution of 4-methoxybenzonitrile (10.0 g) in methanol (75 ml) was added sodium methoxide (0.41 g) and the reaction was stirred at room temperature for 5 days. Ammonium chloride (4.6 g) was added and the reaction was stirred overnight. The reaction was filtered and the filtrate concentrated to an oil. After the addition of ether the off-white precipitate was collected and dried to yield the title compound (3.77 g). Electrospray MS m/z 151 [M+H]+.

reactant | 4-methoxybenzonitrile | 10.0 g | COC1=CC=C(C#N)C=C1 | C8H7NO
reactant | sodium methoxide | 0.41 g | C[O-].[Na+]
reactant | Ammonium chloride | 4.6 g | [Cl-].[NH4+]
solvent | methanol | 75 ml | CO | CH4O
product | 4-Methoxybenzamidine Monohydrochloride | 3.77 g | Cl.COC1=CC=C(C(=N)N)C=C1 | InChI=1S/C8H10N2O.ClH/c1-11-7-4-2-6(3-5-7)8(9)10;/h2-5H,1H3,(H3,9,10);1H
